US04835168
[(1,3,4-Thiadiazol-2-ylamino)thioxomethyl]-carbamic acid, ethyl ester (6.96 g) was reacted with 4 ml of ethyl iodide according to the procedure of Prepartion 7 to give 1.83 g of [(ethylthio) (1,3,4-thiadiazol-2-ylamino)methyl]carbamic acid, ethyl ester.

reactant | [(1,3,4-Thiadiazol-2-ylamino)thioxomethyl]-carbamic acid, ethyl ester | 6.96 g | S1C(=NN=C1)NC(=S)NC(OCC)=O | C6H8N4O2S2
reactant | ethyl iodide | 4 ml | C(C)I | C2H5I
product | [(ethylthio) (1,3,4-thiadiazol-2-ylamino)methyl]carbamic acid, ethyl ester | 1.83 g | C(C)SC(NC=1SC=NN1)NC(OCC)=O | C8H14N4O2S2
